US06573260B1
Cyclopropyl[1-[1-(R)-phenylethyl]pyrrolidin-3-yl]ketone
The product containing 1-cyclopropyl-2-propen-1-one described in Reference Example 1 (8.01 g) and N-(normal-butoxymethyl)-N-[1-(R)-phenylethyl]trimethylsilylmethylamine (23.2 g, 79.9 mmol) were dissolved in dry dichloroethane (350 ml) to which was subsequently added dropwise trifluoroacetic acid (500 μl). After 12 hours of stirring at room temperature, the reaction solution was washed with saturated sodium bicarbonate aqueous solution (100 ml) and saturated sodium chloride aqueous solution (100 ml) in that order. This was dried over anhydrous magnesium sulfate, filtered and then concentrated under a reduced pressure. The resulting residue was applied to a flash silica gel chromatography and eluted with n-hexane:ethyl acetate=2:1, thereby obtaining 9.08 g (49.6%) of the title compound as a colorless oil. In this connection, this product was obtained as a 1:1 diastereomer mixture.

reactant | 1-cyclopropyl-2-propen-1-one | C1(CC1)C(C=C)=O | C6H8O
reactant | N-(normal-butoxymethyl)-N-[1-(R)-phenylethyl]trimethylsilylmethylamine | 79.9 mmol, 23.2 g | C(CCC)OCN([C@H](C)C1=CC=CC=C1)C[Si](C)(C)C | C17H31NOSi
reactant | trifluoroacetic acid | 500 μl | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloroethane | 350 ml | ClC(C)Cl | C2H4Cl2
product | Cyclopropyl[1-[1-(R)-phenylethyl]pyrrolidin-3-yl]ketone | 9.08 g, 49.6% | C1(CC1)C(=O)C1CN(CC1)[C@H](C)C1=CC=CC=C1 | C16H21NO
